US07678818B2
To a vigorously stirred solution of 1 g of 3-amino-2-cyclopropylthiocarbamoyl-but-2-enoic acid ethyl ester (4.4 mmol) in chloroform (16 ml) was added dropwise a solution of 1.4 g of bromine in chloroform (8 ml) at 0° C. After completion of the addition the reaction mixture was stirred at 0° C. for additional 5 min. Then diethyl ether and sat. NaHCO3-solution were added and the mixture was extracted with diethyl ether. The combined extracts were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo to give a residue which was purified by flash column chromatography (100% DCM) to give 5-cyclopropylamino-3-methyl-isothiazole-4-carboxylic acid ethyl ester (410 mg, 40%) as a brown liquid. 1HNMR (CDCl3, 300 MHz): δ 0.73 (m, 2H), 0.81 (m, 2H), 1.36 (t, J=7.2 Hz, 3H), 2.50 (s, 3H), 2.63 (m, 1H), 4.29 (q, J=7.2 Hz, 2H), 7.80 (br s, 1H).

reactant | 3-amino-2-cyclopropylthiocarbamoyl-but-2-enoic acid ethyl ester | 4.4 mmol, 1 g | C(C)OC(C(=C(C)N)C(NC1CC1)=S)=O | C10H16N2O2S
reactant | bromine | 1.4 g | BrBr | Br2
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | chloroform | 16 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-cyclopropylamino-3-methyl-isothiazole-4-carboxylic acid ethyl ester | 410 mg, 40% | C(C)OC(=O)C=1C(=NSC1NC1CC1)C | C10H14N2O2S
